US08492582B2
An 2 mol/L aqueous solution of sodium hydroxide (1.1 mL) was added to a solution mixture of the obtained benzyl 2-(benzyloxy)-5-(pyridin-4-yl)benzoate (0.29 g) in dioxane (2.9 mL) and methanol (2.9 mL), followed by stirring at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and water was added to the residue. After adjusting the pH to 4 with 6 mol/L hydrochloric acid, ethyl acetate was added thereto. The reaction mixture was filtrated to collect the solid substance to obtain 0.19 g of 2-(benzyloxy)-5-(pyridin-4-yl)benzoic acid as a white solid.

reactant | sodium hydroxide | 1.1 mL | [OH-].[Na+]
reactant | benzyl 2-(benzyloxy)-5-(pyridin-4-yl)benzoate | 0.29 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)C1=CC=NC=C1 | C26H21NO3
solvent | dioxane | 2.9 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 2.9 mL | CO | CH4O
product | 2-(benzyloxy)-5-(pyridin-4-yl)benzoic acid | 0.19 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1)C1=CC=NC=C1 | C19H15NO3
